US07429665B2
2-((4-(3-Methyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline
A mixture of 4-(4-((quinolin-2-yl)methoxy)phenyl)-3-(pyridin-4-yl)but-3-en-2-one (1.00 g, 2.60 mmol) and p-toluensulfonylhydrazine (484 mg, 2.6 mmol) in acetic acid (14 mL) was heated at reflux for 10 h. Additional p-toluenesulfonylhydrazine (242 mg, 0.5 mmol) was added and the mixture heated at reflux 2 h. The mixture was concentrated, the residue dissolved in dichloromethane and the resulting solution washed with water (2×25 mL), dried and concentrated. The residue was chromatographed on silica eluted with 1%, 2%, and 3% methanol in dichloromethane containing 0.5% concentrated ammonium hydroxide giving a solid which was triturated with ether and dried. Yield 293 mg, 29%. 1H NMR (CDCl3, 400 mHz) δ 8.51 (m, 2H), 8.18 (d, 1H, J=8.7 Hz), 8.06 (d, 1H, J=7.9 Hz), 7.81 (d, 1H, J=8.3 Hz), 7.72 (m, 1H), 7.64 (d, 1H, J=8.3 Hz), 7.54 (m, 1H), 7.24 (m, 2H), 7.13 (m, 2H), 6.96 (m, 2H), 5.36 (s, 2H), 2.33 (s, 3H). HPLC-MS (system 1) 4.65 min, m/e 393 (MH+).

reactant | 4-(4-((quinolin-2-yl)methoxy)phenyl)-3-(pyridin-4-yl)but-3-en-2-one | 2.60 mmol, 1.00 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C=C(C(C)=O)C1=CC=NC=C1 | C25H20N2O2
reactant | p-toluensulfonylhydrazine | 2.6 mmol, 484 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | p-toluenesulfonylhydrazine | 0.5 mmol, 242 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 2-((4-(3-Methyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline | CC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
